US20010041715A1
2-[4′-(2-Benzyl-benzofuran-3-yl)-biphenyl-4-yloxy]-2-methyl-3-phenyl-propionic acid
Lithium bis(trimethylsilyl)amide (1.0 M, 1.68 mL, 1.68 mmol) was added dropwise into a cold (−78° C.) mixture of 2-[4′-(2-benzyl-benzofuran-3-yl)-biphenyl-4-yloxy]-2-methyl-3-phenyl-propionic acid ethyl ester (0.8 g, 1.68 mmol), and tetrahydrofuran (8.0 mL).. The mixture was allowed to gradually warm up to −45° C., and stirred for 2 hours. Benzyl bromide (0.29 mL, 2.52 mmol) was added into the reaction mixture. The temperature was gradually raised to room temperature and the reaction was stirred for 15 hours. The mixture was then poured in to water, acidified with HCl (2 N) to pH=5, and extracted with ethyl acetate. The organic extracts were dried over MgSO4. Evaporation and purification by flash chromatography on silica gel (hexanes/EtAOc 5:1) gave an clear oil (0.43 g). The product was saponified according to Example 1 step h, to give a white solid (0.32 g, 34% yield for two steps): MS m/e 538 (M+);

reactant | Lithium bis(trimethylsilyl)amide | 1.68 mmol, 1.0 M, 1.68 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 2-[4′-(2-benzyl-benzofuran-3-yl)-biphenyl-4-yloxy]-2-methyl-3-phenyl-propionic acid ethyl ester | 1.68 mmol, 0.8 g | C(C)OC(C(CC1=CC=CC=C1)(C)OC1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(OC2=C1C=CC=C2)CC2=CC=CC=C2)=O | C39H34O4
reactant | Benzyl bromide | 2.52 mmol, 0.29 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | HCl | 2 N | Cl | ClH
solvent | water | O | H2O
solvent | tetrahydrofuran | 8.0 mL | O1CCCC1 | C4H8O
product | 2-[4′-(2-Benzyl-benzofuran-3-yl)-biphenyl-4-yloxy]-2-methyl-3-phenyl-propionic acid | 0.43 g, 34% yield | C(C1=CC=CC=C1)C=1OC2=C(C1C1=CC=C(C=C1)C1=CC=C(C=C1)OC(C(=O)O)(CC1=CC=CC=C1)C)C=CC=C2 | C37H30O4
